US08283353B2
4′-[(4-{trans-4-[2-(1H-imidazol-1-yl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a mixture of 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]ethyl methanesulfonate (0.3 g), imidazole (0.042 g) and N,N-dimethylformamide (5 mL) was added sodium hydride (0.024 g), and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.24 g, 83%).

reactant | 2-[(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]ethyl methanesulfonate | 0.3 g | CS(=O)(=O)OCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC)N=CN2 | C31H35N5O5S
reactant | imidazole | 0.042 g | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.024 g | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-[(4-{trans-4-[2-(1H-imidazol-1-yl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.24 g, 83% | N1(C=NC=C1)CCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C33H35N7O2
